US09431145B2
6,12-dihydroindeno[1,2-b]fluorene
Potassium hydroxide (163.7 g), diethylene glycol (1412 mL, Alfa-Aesar) and indeno[1,2-b]fluorene-6,12-dione (28.23 g) were charged to a suitable vessel under argon. Hydrazine-hydrate (152 mL, Alfa-Aesar) was added and the reaction heated to 170° C. for 18 hours. The reaction mixture was slowly added to a mixture of ice (2 kg) and concentrated hydrochloric acid (1 L) and the resulting slurry stirred for 10 minutes. The solids were collected by vacuum filtration, washed with water (3×500 mL) and dried to give the product as a grey solid. Yield; 24.49 g. 1H NMR (400 MHz, CDCl3); 7.95 (2H, m), 7.80 (2H, m), 7.54 (2H, m), 7.39 (2H, m), 7.30 (2H, m).

reactant | Potassium hydroxide | 163.7 g | [OH-].[K+]
reactant | indeno[1,2-b]fluorene-6,12-dione | 28.23 g | C1=CC=CC=2C=3C=C4C(=CC3C(C12)=O)C1=CC=CC=C1C4=O | C20H10O2
reactant | Hydrazine-hydrate | 152 mL | O.NN
reactant | hydrochloric acid | 1 L | Cl | ClH
solvent | diethylene glycol | 1412 mL | C(COCCO)O | C4H10O3
product | 6,12-dihydroindeno[1,2-b]fluorene | C1=CC=CC=2C=3C=C4C(=CC3CC12)C1=CC=CC=C1C4 | C20H14
